US05102905
2-Bromothiophene-5-sulphonyl chloride (prepared as described in Bull. Chem. Soc. Japan, 1985,58,1063-1064)(6.5 g, 25 mmol) was added slowly to a stirred solution of sodium hydrogen carbonate (4.2 g, 50 mmol) and sodium sulphite heptahydrate (12.6 g, 50 mmol) in water (50 ml), at 70° C. The mixture was stirred at this temperature for 1.5 hours, then ice (20 g) was added, and the mixture was washed with ether (2×50 ml). The cold aqueous phase was acidified to pH 1with 2 M hydrochloric acid and extracted quickly with ether (3×50 ml). The combined extracts were dried (MgSO4) and added to a solution of sodium methoxide in methanol (prepared from sodium metal (1.7 g, 75 mmol) and methanol (25 ml)). The mixture was then evaporated to dryness to give sodium 2-bromothiophene-5-sulphinate as a white solid, which was immediately dissolved in dry DMF (25 ml) and cooled to -25 ° C. Bromonitromethane (7.0 g, 50 mmol) was then added, the cooling bath removed, and the stirred mixture irradiated with a lamp (240 watt) for 10 minutes. Ice was then added, the mixture washed with ether (3×100 ml), and the aqueous phase acidified with 2 M hydrochloric acid. The aqueous phase was then extracted with ether (3×100 ml) and the combined extracts evaporated to give an oil which was purified by chromatography on silica gel (Merck Kieselgel Art. 7734) eluting with chloroform, to give 2-bromo-5-(nitromethylsulphonyl)thiophene as a white crystalline solid (4.2 g), m.p. 103°-104° C. (after recrystallisation from ether); in 59% yield; NMR: 5.65(s,2H), 7.25(d,2H), 7.6(d,2H); m/e (electron impact) 287(M+); microanalysis, found: C,21.2; H,1.5; N,4.8%; C5H4BrNO4S2 requires: C,21.0; H,1.4; N,4.9%.

reactant | 2-Bromothiophene-5-sulphonyl chloride | 25 mmol, 6.5 g | BrC=1SC(=CC1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | sodium hydrogen carbonate | 50 mmol, 4.2 g | C(O)([O-])=O.[Na+]
reactant | sodium sulphite heptahydrate | 50 mmol, 12.6 g | O.O.O.O.O.O.O.S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 75 mmol, 25 ml, 1.7 g | CO | CH4O
solvent | water | 50 ml | O | H2O
product | sodium 2-bromothiophene-5-sulphinate | 59% yield | BrC=1SC(=CC1)S(=O)[O-].[Na+] | InChI=1S/C4H3BrO2S2.Na/c5-3-1-2-4(8-3)9(6)7;/h1-2H,(H,6,7);/q;+1/p-1
